US07825260B2
Preparation of (2-pentyl-benzoxazol-5-yl)-acetic acid
A solution of (3-aminohydroxy-phenyl)-acetic acid (4.65 g, 27.8 mmol) in methanol (79 ml) was treated with hexanimidic acid ethyl ester hydrochloride (5.00 g, 27.8 mmol) and stirred for 14 hours at RT. The solvent was evaporated in vacuum and the residue purified by silica gel chromatography (eluent: DCM/methanol 10/1). Crystallization from Cyclohexane/n-pentane provided the title compound as colorless crystals. mp: 58.2/57.1° C.

reactant | (3-aminohydroxy-phenyl)-acetic acid | 27.8 mmol, 4.65 g | NC=1C(=C(C=CC1)CC(=O)O)O | C8H9NO3
reactant | hexanimidic acid ethyl ester hydrochloride | 27.8 mmol, 5.00 g | Cl.C(C)OC(CCCCC)=N
solvent | methanol | 79 ml | CO | CH4O
product | (2-pentyl-benzoxazol-5-yl)-acetic acid | C(CCCC)C=1OC2=C(N1)C=C(C=C2)CC(=O)O | C14H17NO3
